US05149696
6-bromo-N-butyl-N-methyl hexanamide
Using the procedure of Step A of Example 3, 4.88 g of 6-bromohexanoic acid and 4.36 ml of N-methylbutylamine were reacted to obtain 7.0 g of the expected product which was used as is for the following step.

reactant | 6-bromohexanoic acid | 4.88 g | BrCCCCCC(=O)O | C6H11BrO2
reactant | N-methylbutylamine | 4.36 ml | CNCCCC | C5H13N
product | 6-bromo-N-butyl-N-methyl hexanamide | 7.0 g | BrCCCCCC(=O)N(C)CCCC | C11H22BrNO
